US04885283
0.11 g of benzyl(S)-2-[[(S)-1-[[[methoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamoyl]-1-pyrrolidinecarboxylate was dissolved in 4 ml of dichloromethane and 0.5 ml of bromotrimethylsilane was added. The mixture was stirred at room temperature for 1.5 hours and the solvent was removed by evaporation. The residue was dissolved in 5 ml of acetone and there were then added 1 ml of water and 0.5 g of sodium hydrogen carbonate followed by 50 mg of benzyl chloroformate. After stirring at room temperature for 2.5 hours, the solvent was removed by evaporation. The residue was dissolved in 15 ml of 1M sodium hydroxide solution and the resulting solution was extracted three times with 15 ml of diethyl ether each time. The aqueous solution was acidified with 10% sulfuric acid, saturated with sodium chloride solution and extracted five times with 20 ml of 5% methanol in dichloromethane each time. The organic extracts were dried over anhydrous sodium sulfate and evaporated to give 0.1 g of [[[N-[1-[(benzyloxy)carbonyl]-L-prolyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid in the form of a white foam.

reactant | benzyl(S)-2-[[(S)-1-[[[methoxy[(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinyl]methyl]carbamoyl]-3-methylbutyl]carbamoyl]-1-pyrrolidinecarboxylate | 0.11 g | COP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CNC(=O)[C@H](CC(C)C)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C35H58N5O8P
reactant | bromotrimethylsilane | 0.5 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [[[N-[1-[(benzyloxy)carbonyl]-L-prolyl]-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid | 0.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCP(O)(=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CCC1 | C34H56N5O8P
